US07417060B2
To a solution of (4-bromo-2-cyclohexyloxyphenyl)acetic acid (1.33 g) in N,N-dimethylformamide (13 ml) were added potassium carbonate (0.88 g) and iodoethane (1.33 g) at room temperature under nitrogen, and the mixture was stirred at the same temperature for 2.5 days. The resulting mixture was poured into water and the aqueous layer was extracted with a mixture of hexane and ethyl acetate (1:1). The organic layer was washed successively with water (twice) and brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/toluene=1:1 to 1:2) to give ethyl (4-bromo-2-cyclohexyloxyphenyl)acetate (1.24 g).

reactant | (4-bromo-2-cyclohexyloxyphenyl)acetic acid | 1.33 g | BrC1=CC(=C(C=C1)CC(=O)O)OC1CCCCC1 | C14H17BrO3
reactant | potassium carbonate | 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.33 g | ICC | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | ethyl (4-bromo-2-cyclohexyloxyphenyl)acetate | 1.24 g | BrC1=CC(=C(C=C1)CC(=O)OCC)OC1CCCCC1 | C16H21BrO3
